US07989444B2
7-(3-{[4-Methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride
The title compound was prepared in analogy to General Procedure 1 from 2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine (0.14 μmol) and 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline and was obtained as a colourless solid (97 μmol).

reactant | 2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine | 0.14 μmol | FC(C=1OC2=CC3=C(CCNCC3)C=C2N1)(F)F | C12H11F3N2O
reactant | 5-{5-[(3-chloropropyl)thio]-4-methyl-4H-1,2,4-triazol-3-yl}-2-methylquinoline | ClCCCSC=1N(C(=NN1)C1=C2C=CC(=NC2=CC=C1)C)C | C16H17ClN4S
product | 7-(3-{[4-Methyl-5-(2-methyl-5-quinolinyl)-4H-1,2,4-triazol-3-yl]thio}propyl)-2-(trifluoromethyl)-6,7,8,9-tetrahydro-5H-[1,3]oxazolo[4,5-h][3]benzazepine hydrochloride | Cl.CN1C(=NN=C1C1=C2C=CC(=NC2=CC=C1)C)SCCCN1CCC2=C(CC1)C=C1C(=C2)OC(=N1)C(F)(F)F | InChI=1S/C28H27F3N6OS.ClH/c1-17-7-8-20-21(5-3-6-22(20)32-17)25-34-35-27(36(25)2)39-14-4-11-37-12-9-18-15-23-24(16-19(18)10-13-37)38-26(33-23)28(29,30)31;/h3,5-8,15-16H,4,9-14H2,1-2H3;1H
